US07241785B2
To a solution of methyl 5-oxo-5-phenylpentanoate (16.1 g) in diethyl ether (100 ml) was added bromine (4.01 ml) at room temperature over 30 min. and the mixture was stirred for 30 min. An aqueous sodium sulfite solution was added to the reaction mixture and the mixture was extracted with diethyl ether. The diethyl ether layer was washed with saturated brine, dried (MgSO4) and concentrated to give methyl 4-bromo-5-oxo-5-phenylpentanoate (22.1 g, yield 100%) as a pale-yellow oil.

reactant | methyl 5-oxo-5-phenylpentanoate | 16.1 g | O=C(CCCC(=O)OC)C1=CC=CC=C1 | C12H14O3
reactant | bromine | 4.01 ml | BrBr | Br2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | methyl 4-bromo-5-oxo-5-phenylpentanoate | 22.1 g, yield 100% | BrC(CCC(=O)OC)C(C1=CC=CC=C1)=O | C12H13BrO3
